US05591762
a) 4'-[(2-n-Propyl-4-methyl-6-(2-methyl-oxazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl
A solution of 2.8 g (11 mMol) of 2-n-propyl-4-methyl-6-(2-methyl-oxazol-4-yl)-benzimidazole and 1.7 g (15 mMol) of potassium tert.butoxide in 60 ml of dimethylsulphoxide is stirred for 15 minutes at ambient temperature. Then 6.0 g of (11 mMol) of 4'-bromomethyl-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl are added and the mixture is stirred for a further 3 hours at ambient temperature. Then the solution is stirred into about 150 ml of saturated sodium chloride solution, the crude product precipitated is suction filtered and purified by column chromatography (500 g of silica gel; eluant: petroleum ether/ethyl acetate=1:1)

reactant | 2-n-propyl-4-methyl-6-(2-methyl-oxazol-4-yl)-benzimidazole | 11 mMol, 2.8 g | C(CC)C=1NC2=C(N1)C=C(C=C2C)C=2N=C(OC2)C | C15H17N3O
reactant | potassium tert.butoxide | 15 mMol, 1.7 g | CC(C)([O-])C.[K+]
reactant | 4'-bromomethyl-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | 11 mMol, 6.0 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | sodium chloride | about 150 ml | [Cl-].[Na+]
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 4'-[(2-n-Propyl-4-methyl-6-(2-methyl-oxazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2C)C=2N=C(OC2)C | C48H41N7O
